US07807720B2
2-(4-Fluoro-3-methyl-benzyl)-hexanoic acid (tetrahydro-pyran-2-yloxy)-amide (C)
To a solution of 2-(4-Fluoro-3-methyl-benzyl)-hexanoic acid (0.498 g, 2.091 mmol), O-(tetrahydro-pyran-2-yl)-hydroxylamine (0.735 g, 6.274 mmol), HOBT (0.282 g, 2.091 mmol), and N-methyl morphine (1.058 g, 10.455 mmol) in 20 mL of dichloromethane, was added EDCI (0.601 g, 3.137 mmol). After stirring at room temperature under N2 for 64 h, the reaction mixture was diluted with 60 mL of water and extracted with dichloromethane (60 mL×3). The organic extracts were combined and dried over anhydrous Na2SO4. After removing the solvents under reduced pressure, the product was isolated by Flash chromatography (silica gel) eluting with 0-40% ethyl acetate/hexanes to give the title compound as a pale yellow solid (0.423 g, 60% yield). LC-MS: tR=9.1 min; m/z 338 (M+H)+.

reactant | 2-(4-Fluoro-3-methyl-benzyl)-hexanoic acid | 2.091 mmol, 0.498 g | FC1=C(C=C(CC(C(=O)O)CCCC)C=C1)C | C14H19FO2
reactant | O-(tetrahydro-pyran-2-yl)-hydroxylamine | 6.274 mmol, 0.735 g | O1C(CCCC1)ON | C5H11NO2
reactant | HOBT | 2.091 mmol, 0.282 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | N-methyl morphine | 10.455 mmol, 1.058 g | C[N+]1(CC[C@]23[C@@H]4[C@@H]1CC5=C2C(=C(C=C5)O)O[C@H]3[C@H](C=C4)O)C
reactant | EDCI | 3.137 mmol, 0.601 g | CCN=C=NCCCN(C)C | C8H17N3
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | water | 60 mL | O | H2O
product | 2-(4-Fluoro-3-methyl-benzyl)-hexanoic acid (tetrahydro-pyran-2-yloxy)-amide | 0.423 g, 60% yield | O1C(CCCC1)ONC(C(CCCC)CC1=CC(=C(C=C1)F)C)=O | C19H28FNO3
